US07875728B2
1-methyl-4-phenylazo-1H-pyrazole-3,5-diamine was prepared using 2-phenylhydrazonomalononitrile (425 mg) and methylhydrazine sulfate (720 mg). The compound was purified by column chromatography and afforded a yellow solid.

reactant | 2-phenylhydrazonomalononitrile | 425 mg | C1(=CC=CC=C1)NN=C(C#N)C#N | C9H6N4
reactant | methylhydrazine sulfate | 720 mg | S(=O)(=O)(O)O.CNN
product | 1-methyl-4-phenylazo-1H-pyrazole-3,5-diamine | CN1N=C(C(=C1N)N=NC1=CC=CC=C1)N | C10H12N6
